US07678812B2
A solution of cis-1-benzyl-6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-ylamine hydrochloride (0.306 g, 1.01 mmol), diisopropylethylamine (0.264 mL, 1.51 mmol) and 4-isothiocyanatomethyl-2-methoxy-1-methoxymethoxy-benzene (0.253 g, 1.06 mmol) in acetonitrile (10 mL) was stirred at ambient temperature overnight. The solvent was evaporated in vacuo, and the residue was purified by reverse phase preparative HPLC, on a C18 column eluted with a gradient of 40 to 90% acetonitrile in water with 0.1% TFA, to give the product, 1-(1-benzyl-6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-3-(3-methoxy-4-methoxymethoxy-benzyl)-thiourea, 0.21 g (41%). 1H NMR (CDCl3): δ 1.64 (br s, 1H), 1.85 (m, 1H), 2.04 (m, 1H), 2.63 (m, 1H), 2.82 (m, 2H), 2.98 (m, 1H), 3.33 (m, 1H), 3.49 (s, 3H), 3.78 (s, 3H), 3.84 (s, 3H), 4.32 (br s, 2H), 5.19 (s, 2H), 5.7 (br s, 1H), 6.0 (br s, 1H), 6.64 (m, 3H), 6.80 (s, 1H), 6.91 (d, J=8.4 Hz, 1H), 7.03 (d, J=8.2 Hz, 1H) and 7.11 to 7.28 (m, 5H). MS: m/z 507 (M+H)+.

reactant | cis-1-benzyl-6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-ylamine hydrochloride | 1.01 mmol, 0.306 g | Cl.C(C1=CC=CC=C1)[C@H]1[C@H](CCC2=CC(=CC=C12)OC)N
reactant | diisopropylethylamine | 1.51 mmol, 0.264 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-isothiocyanatomethyl-2-methoxy-1-methoxymethoxy-benzene | 1.06 mmol, 0.253 g | N(=C=S)CC1=CC(=C(C=C1)OCOC)OC | C11H13NO3S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(1-benzyl-6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-3-(3-methoxy-4-methoxymethoxy-benzyl)-thiourea | C(C1=CC=CC=C1)C1C(CCC2=CC(=CC=C12)OC)NC(=S)NCC1=CC(=C(C=C1)OCOC)OC | C29H34N2O4S
